US07612201B2
Phenyltrimethylammonium tribromide (241 mg, 0.641 mmol) was added to a stirred solution of N-(4-acetyl-3-benzyloxy-phenylacetamide (165 mg, 0.582 mmol) in THF (16 mL) and stirred at room temperature for 2 hours. The reaction mixture was poured into water (50 mL) and extracted with ether (2×50 mL). The combined ethereal extracts where dried (MgSO4) and the solvents removed in vacuo to give crude N-[3-benzyloxy-4-(2-bromo-acetyl)-phenyl]-acetamide (200 mg, 95%) as an off-white solid; δH (CDCl3) 7.98 (1H, br s), 7.92 (1H, br s), 7.81 (1H, d, J=8.5 Hz), 7.49-7.32 (5H, m), 6.82 (1H, dd, J=8.5, 1.9 Hz), 5.16 (2H, s), 4.50 (2H, s), 2.20 (3H, s); LCMS retention time 2.52 min, M+H+ 362.2/364.2. The crude material was contaminated with a small amount of starting material and the corresponding dibromo-compound, but was sufficiently pure to use in step 6.

reactant | Phenyltrimethylammonium tribromide | 0.641 mmol, 241 mg | [Br-].[Br-].[Br-].C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C
reactant | 4-acetyl-3-benzyloxy-phenylacetamide | 0.582 mmol, 165 mg | C(C)(=O)C1=C(C=C(C=C1)CC(=O)N)OCC1=CC=CC=C1 | C17H17NO3
reactant | water | 50 mL | O | H2O
solvent | THF | 16 mL | C1CCOC1 | C4H8O
product | N-[3-benzyloxy-4-(2-bromo-acetyl)-phenyl]-acetamide | 200 mg, 95% | C(C1=CC=CC=C1)OC=1C=C(C=CC1C(CBr)=O)NC(C)=O | C17H16BrNO3
